US07786132B2
1-(2-(4-(5-(Thiophen-2-yl)thiophen-2-yl)pyrimidin-2-ylamino)ethyl)-1H-benzo[d]imidazol-2(3H)-one
A mixture of 2-chloro-4-(5-(thiophen-2-yl)thiophen-2-yl)pyrimidine (20 mg, 0.072 mmol), 1-(2-aminoethyl)-1H-benzo[d]imidazol-2(3H)-one hydrochloride salt (15 mg, 0.072 mmol) and potassium carbonate (20 mg, excess) in N-methylpyrrolidine (1 mL) was heated at 160° C. for 35 min in a Personal Chemistry microwave reactor. The solvent was removed in vacuo and the product was purified by HPLC to give the title compound (trifluoroacetate salt) as a yellow solid. MS (M+H)+ 420.

reactant | 2-chloro-4-(5-(thiophen-2-yl)thiophen-2-yl)pyrimidine | 0.072 mmol, 20 mg | ClC1=NC=CC(=N1)C=1SC(=CC1)C=1SC=CC1 | C12H7ClN2S2
reactant | 1-(2-aminoethyl)-1H-benzo[d]imidazol-2(3H)-one hydrochloride salt | 0.072 mmol, 15 mg | Cl.NCCN1C(NC2=C1C=CC=C2)=O
reactant | potassium carbonate | 20 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N-methylpyrrolidine | 1 mL | CN1CCCC1 | C5H11N
product | 1-(2-(4-(5-(Thiophen-2-yl)thiophen-2-yl)pyrimidin-2-ylamino)ethyl)-1H-benzo[d]imidazol-2(3H)-one | S1C(=CC=C1)C1=CC=C(S1)C1=NC(=NC=C1)NCCN1C(NC2=C1C=CC=C2)=O | C21H17N5OS2
